US08492548B2
1,1′-Carbonyldiimidazole (14.0 mg, 0.09 mmol) was added to a solution of (R)-1-(2-(4-carboxyphenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide (diastereomer 1 of C67) (50 mg, 0.09 mmol) in dry DMF (2 ml). The reaction mixture was stirred at room temperature for 2 hours. Then morpholine (7.52 mg, 0.09 mmol) was added, and the resulting reaction mixture was stirred at room temperature for 1 hour. DMF was evaporated and the crude was purified by preparative HPLC (eluents: CH3CN/H2O) to obtain (R)-1-(2-(4-(morpholine-4-carbonyl)phenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide (18.9 mg, 33.8% yield).

reactant | 1,1′-Carbonyldiimidazole | 0.09 mmol, 14.0 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (R)-1-(2-(4-carboxyphenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide | 0.09 mmol, 50 mg | [Br-].C(=O)(O)C1=CC=C(C=C1)C(C[N+]12C[C@@H](C(CC1)CC2)OC([C@H](NC2=CC=CC=C2)C2=CC=CC=C2)=O)=O
reactant | morpholine | 0.09 mmol, 7.52 mg | N1CCOCC1 | C4H9NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (R)-1-(2-(4-(morpholine-4-carbonyl)phenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide | 18.9 mg, 33.8% yield | [Br-].N1(CCOCC1)C(=O)C1=CC=C(C=C1)C(C[N+]12C[C@@H](C(CC1)CC2)OC([C@H](NC2=CC=CC=C2)C2=CC=CC=C2)=O)=O | InChI=1S/C34H38N3O5.BrH/c38-30(25-11-13-28(14-12-25)33(39)36-17-21-41-22-18-36)23-37-19-15-26(16-20-37)31(24-37)42-34(40)32(27-7-3-1-4-8-27)35-29-9-5-2-6-10-29;/h1-14,26,31-32,35H,15-24H2;1H/q+1;/p-1/t26?,31-,32+,37?;/m0./s1
